US06589970B2
Step 2: {6-[(2-Butyl-benzofuran-3-carbonyl)-amino]-naphthalen-2-yloxy}-acetic acid sodium salt.
A mixture of {6-[(2-butyl-benzofuran-3-carbonyl)-amino]-naphthalen-2-yloxy}-acetic acid methyl ester (103 mg, 0.239 mmol), prepared in the previous step, and 1 N NaOH (239 μL, 0.239 mmol) in 10 mL of THF plus 5 mL of water was stirred at room temperature for 21 h (overnight). The solvent was removed under reduced pressure to give the title compound (95 mg, 87%) as a yellow solid, MS m/z: 416 [M−H]−.

reactant | {6-[(2-butyl-benzofuran-3-carbonyl)-amino]-naphthalen-2-yloxy}-acetic acid methyl ester | 0.239 mmol, 103 mg | COC(COC1=CC2=CC=C(C=C2C=C1)NC(=O)C1=C(OC2=C1C=CC=C2)CCCC)=O | C26H25NO5
reactant | NaOH | 0.239 mmol, 1 N, 239 μL | [OH-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | {6-[(2-Butyl-benzofuran-3-carbonyl)-amino]-naphthalen-2-yloxy}-acetic acid sodium salt | 95 mg, 87% | [Na+].C(CCC)C=1OC2=C(C1C(=O)NC=1C=C3C=CC(=CC3=CC1)OCC(=O)[O-])C=CC=C2 | InChI=1S/C25H23NO5.Na/c1-2-3-7-22-24(20-6-4-5-8-21(20)31-22)25(29)26-18-11-9-17-14-19(30-15-23(27)28)12-10-16(17)13-18;/h4-6,8-14H,2-3,7,15H2,1H3,(H,26,29)(H,27,28);/q;+1/p-1
